US06384028B1
A solution of 3-[(R)-1-[3-(4-piperidyl)propanoyl]-3-piperidylcarbonyl]aminobenzoic acid hydrochloride (1 g) was neutralized by saturated aqueous NaHCO3, desalted by using the resin of HP-20 eluting with H2O: isopropanol=(1:1), then freeze-dried to give 3-[(R)-1-[3-(4-piperidyl)propanoyl]-3-piperidylcarbonyl]aminobenzoic acid (732 mg 80.1%).

reactant | 3-[(R)-1-[3-(4-piperidyl)propanoyl]-3-piperidylcarbonyl]aminobenzoic acid hydrochloride | 1 g | Cl.N1CCC(CC1)CCC(=O)N1C[C@@H](CCC1)C(=O)NC=1C=C(C(=O)O)C=CC1
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-[(R)-1-[3-(4-piperidyl)propanoyl]-3-piperidylcarbonyl]aminobenzoic acid | 732 mg, 80.1% | N1CCC(CC1)CCC(=O)N1C[C@@H](CCC1)C(=O)NC=1C=C(C(=O)O)C=CC1 | C21H29N3O4
